US06008230
A mixture of 8-(2,6-dichlorobenzoylamino)-3-methylquinoline (104 mg), N-bromosuccinimide (67.1 mg) and 2,2'-azobis(2,4-dimethyl-4-methoxyvaleronitrile) (20.1 mg) in carbon tetrachloride (3 ml) was refluxed for 2 hours. After cooling, the mixture was washed with water, saturated sodium bicarbonate solution and brine, dried over magnesium sulfate and evaporated in vacuo to give a residue containing 3-bromomethyl-8-(2,6-dichlorobenzoylamino)quinoline. The residue was dissolved in ethylene chloride, and imidazole (64.1 mg) was added thereto. After stirring for 2.5 hours at 60° C., the mixture was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (ethyl acetate-dichloromethane) to give 8-(2,6-dichlorobenzoylamino)-3-(imidazol-1-ylmethyl)quinoline (36.2 mg).

reactant | 8-(2,6-dichlorobenzoylamino)-3-methylquinoline | 104 mg | ClC1=C(C(=O)NC=2C=CC=C3C=C(C=NC23)C)C(=CC=C1)Cl | C17H12Cl2N2O
reactant | N-bromosuccinimide | 67.1 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2'-azobis(2,4-dimethyl-4-methoxyvaleronitrile) | 20.1 mg | N(=NC(C#N)(CC(C)(C)OC)C)C(C#N)(CC(C)(OC)C)C | C16H28N4O2
reactant | 3-bromomethyl-8-(2,6-dichlorobenzoylamino)quinoline | BrCC=1C=NC2=C(C=CC=C2C1)NC(C1=C(C=CC=C1Cl)Cl)=O | C17H11BrCl2N2O
reactant | imidazole | 64.1 mg | N1C=NC=C1 | C3H4N2
solvent | carbon tetrachloride | 3 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ethylene chloride | C(CCl)Cl | C2H4Cl2
product | 8-(2,6-dichlorobenzoylamino)-3-(imidazol-1-ylmethyl)quinoline | 36.2 mg | ClC1=C(C(=O)NC=2C=CC=C3C=C(C=NC23)CN2C=NC=C2)C(=CC=C1)Cl | C20H14Cl2N4O
